US08071592B2
4-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one Dihydrochloride
A solution of 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (50 mg, 0.1648 mmoles) and 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (30.1 mg, 0.181 mmoles) in anhydrous DCM (5 ml) and anhydrous MeOH (0.5 ml) was stirred at rt for 5 minutes. Sodium triacetoxyborohydride (115 mg, 0.543 mmoles) was added and the mixture was stirred, under argon, for 24 hours. A further 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (15 mg, 0.09 mmoles) and sodium triacetoxyborohydride (50 mg, 0.236 mmoles) were added and reaction was stirred for 5 hours, treated with sat. aq. NaHCO3 solution (2 ml) and 9:1 DCM:MeOH (5 ml). The layers were separated and the aqueous layer was washed with 9:1 DCM:MeOH (10 ml) and 5:1 DCM:MeOH (2×20 ml). The organic extracts were combined, passed through a hydrophobic frit and evaporated to an orange gum. Purification on a 20 g silica column eluted with a 20:1 to 10:1 DCM:MeOH gradient elution gave the free base of the title compound as a pale yellow gum (26.1 mg, 35%)

reactant | 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.1648 mmoles, 50 mg | NC1CCN(CC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C15H21N5O2
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 0.181 mmoles, 30.1 mg | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
reactant | Sodium triacetoxyborohydride | 0.543 mmoles, 115 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 0.09 mmoles, 15 mg | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
reactant | sodium triacetoxyborohydride | 0.236 mmoles, 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one Dihydrochloride | 26.1 mg, 35% | Cl.Cl.N1=NC(=CC2=C1OCCO2)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)OC | InChI=1S/C22H27N7O4.2ClH/c1-31-19-3-2-17-21(25-19)29(20(30)14-24-17)9-8-28-6-4-15(5-7-28)23-13-16-12-18-22(27-26-16)33-11-10-32-18;;/h2-3,12,14-15,23H,4-11,13H2,1H3;2*1H
